US04996230
C. Preparation of 2-(2-hydroxyphenoxy)benzoic acid
Fifteen grams of 2-(2-methoxyphenoxy)benzoic acid were heated at 180°-185° C. together with 150 g of pyridine hydrochloride for 3 hours. After cooling to room temperature, water was added and the mixture was stirred overnight at room temperature. The reaction was filtered and the water extracted several times with ethyl acetate. The combined ethyl acetate layers were dried and concentrated in vacuo. The crystallization of the residue from ethyl acetate/hexane provided 6.88 g of the desired subtitled intermediate, m.p. 147°-149° C.

reactant | 2-(2-methoxyphenoxy)benzoic acid | Fifteen grams | COC1=C(OC2=C(C(=O)O)C=CC=C2)C=CC=C1 | C14H12O4
reactant | pyridine hydrochloride | 150 g | Cl.N1=CC=CC=C1
solvent | water | O | H2O
product | 2-(2-hydroxyphenoxy)benzoic acid | 6.88 g | OC1=C(OC2=C(C(=O)O)C=CC=C2)C=CC=C1 | C13H10O4
